US04307094
In a manner analogous to that described in the first paragraph of Example 17, from 2,3,5,8-tetrahydro-1,3-dioxo-1H-1,2,4-triazolo[1,2-a]pyridazine-5-carboxylic acid and methanolic hydrogen chloride there was obtained in 74% yield methyl 2,3,5,8-tetrahydro-1,3-dioxo-1H-1,2,4-triazolo-[1,2-a]pyridazine-5-carboxylate of melting point 210°-213° C. (from methanol).

reactant | 2,3,5,8-tetrahydro-1,3-dioxo-1H-1,2,4-triazolo[1,2-a]pyridazine-5-carboxylic acid | O=C1NC(N2N1CC=CC2C(=O)O)=O | C7H7N3O4
reactant | hydrogen chloride | Cl | ClH
reactant | methanol | CO | CH4O
product | methyl 2,3,5,8-tetrahydro-1,3-dioxo-1H-1,2,4-triazolo-[1,2-a]pyridazine-5-carboxylate | 74% yield | O=C1NC(N2N1CC=CC2C(=O)OC)=O | C8H9N3O4
